US05389687
Preparation of 2-Di-n-propylamino-8-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene.
Alternatively, to a solution of 8-bromo-2-dipropylamino-1,2,3,4-tetrahydronaphthalene (220 mg, 0.71 mMol) in tetrahydrofuran (5 mL) at -78° C. was added a solution of n-butyl lithium in hexane (1.6 M, 1 mL, 1.6 mMol), and the solution was stirred for two hours at -78° C. The solution was then cannulated into a solution of methyl chloroformate (0.5 mL, 6.5 mMol) in tetrahydrofuran (10 mL) at -78° C., and the reaction mixture was allowed to warm gradually to room temperature. The reaction mixture was diluted with saturated aqueous sodium bicarbonate and was then extracted with diethyl ether. The combined extracts were dried over sodium sulfate and evaporated in vacuo to give a greenish-yellow oil. Purification by flash chromatography (3:1 hexane:tetrahydrofuran+tr. NH4OH) gave the title compound as a colorless glass (130 mg, 63%). The hydrochloride salt was formed and recrystallized (acetone/diethyl ether) to give colorless crystals (m.p.=132° C.).

reactant | 8-bromo-2-dipropylamino-1,2,3,4-tetrahydronaphthalene | 0.71 mMol, 220 mg | BrC=1C=CC=C2CCC(CC12)N(CCC)CCC | C16H24BrN
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 1.6 mMol, 1.6 M, 1 mL | CCCCCC | C6H14
reactant | methyl chloroformate | 6.5 mMol, 0.5 mL | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Di-n-propylamino-8-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | 130 mg, 63% | C(CC)N(C1CC2=C(C=CC=C2CC1)C(=O)OC)CCC | C18H27NO2
